US04654369
Step B: N-(2-Hydroxyethyl)-2-[N-(2-hydroxyethyl)aminosulfonyl]-6-nitrobenzamide
A solution of 2-(2-hydroxyethyl)-4-nitro-2H-1,2-benzisothiazol-3-one 1,1-dioxide (100 mg, 0.37 mmol) and ethanolamine (24 mg, 0.39 mmol) in THF (5 ml) was allowed to stand at 20°-25° for 3 days. After removal of THF under reduced pressure, the residue was recrystallized from MeOH-EtOAc-hexane to give 112 mg (91%) of product, m.p. 176.5°-177.5°.

reactant | 2-(2-hydroxyethyl)-4-nitro-2H-1,2-benzisothiazol-3-one 1,1-dioxide | 0.37 mmol, 100 mg | OCCN1S(C2=C(C1=O)C(=CC=C2)[N+](=O)[O-])(=O)=O | C9H8N2O6S
reactant | ethanolamine | 0.39 mmol, 24 mg | C(O)CN | C2H7NO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(2-Hydroxyethyl)-2-[N-(2-hydroxyethyl)aminosulfonyl]-6-nitrobenzamide | 112 mg, 91% | OCCNC(C1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)NCCO)=O | C11H15N3O7S
